US06803480B2
2,6-Dimethyl-4-nitrophenyl trifluoromethanesulphonate
A solution of 150 g (0.9 mol) of dimethylnitrophenol in 700 ml of dichloromethane is cooled to −15° C. 181 ml of pyridine are added. 308.8 g (1.09 mol) of trifluoromethanesulphonic anhydride are then metered in dropwise over a period of 2 h in such a way that the reaction temperature does not exceed −5° C. Then, at a temperature of −5° C., 150 ml of water are added. The organic phase is extracted successively with HCl (1 molar, about 300 ml) and water (twice), each at 3-5° C. The solvent is removed in vacuo, and the residue is stirred with petroleum ether. The precipitate is filtered off with suction. A further fraction is obtained by cooling the mother liquor. Yield: 232 g (85%)

reactant | dimethylnitrophenol | 0.9 mol, 150 g | CC1=C(C(=C(C=C1)O)[N+](=O)[O-])C | C8H9NO3
reactant | pyridine | 181 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulphonic anhydride | 1.09 mol, 308.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 150 ml | O | H2O
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | 2,6-Dimethyl-4-nitrophenyl trifluoromethanesulphonate | FC(S(=O)(=O)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)(F)F | C9H8F3NO5S
